US06706703B2
1,4-Bis[5-(4-methanesulfonylamino-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine
To a solution of 1,4-bis[5-(4-amino-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine tetrahydrochloride (40.0 mg, 0.0570 mmol), which was synthesized in Example 34, in pyridine (1.0 mL) was added methanesulfonyl chloride (30.0 mg, 0.260 mmol). The reaction mixture was stirred for 15 minutes, and concentrated under reduced pressure. A solution of the residue in methanol-chloroform (1:10) was washed with saturated aqueous sodium hydrogencarbonate and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was recrystallized from chloroform-hexane to yield the title compound as a pale brown crystalline powder (melting point: 235.0-239.0° C.) (28.0 mg, yield: 68%).

reactant | 1,4-bis[5-(4-amino-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine tetrahydrochloride | 0.0570 mmol, 40.0 mg | Cl.Cl.Cl.Cl.NC1=C(C=C(C=C1OC)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC(=C(C(=C1)OC)N)OC)OC
reactant | methanesulfonyl chloride | 0.260 mmol, 30.0 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | 1,4-Bis[5-(4-methanesulfonylamino-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine | 28.0 mg, yield: 68% | CS(=O)(=O)NC1=C(C=C(C=C1OC)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC(=C(C(=C1)OC)NS(=O)(=O)C)OC)OC | C33H40N6O8S2
